US04414390
8-Hydroxy-3,4-dihydrocarbostyril (20 g) was suspended in acetic anhydride (100 ml). Sulfuric acid (5 drops) was added to the resulting suspension and the mixture was stirred at 80° C. for 1.5 hours. To the reaction mixture was added acetic acid (100 ml) and the mixture was ice-cooled, and a solution of 10.1 ml of concentrated nitric acid (d=1.38) in 30 ml of acetic anhydride was added thereto with stirring. The stirring was continued for one night at room temperature. The reaction mixture was poured into ice water to precipitate crystals, which were collected by filtration to give 21.74 g of 6-nitro-8-acetoxy-3,4-dihydrocarbostyril.

reactant | 8-Hydroxy-3,4-dihydrocarbostyril | 20 g | OC=1C=CC=C2CCC(NC12)=O | C9H9NO2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | nitric acid | 10.1 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | Sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-nitro-8-acetoxy-3,4-dihydrocarbostyril | 21.74 g | [N+](=O)([O-])C=1C=C2CCC(NC2=C(C1)OC(C)=O)=O | C11H10N2O5
